US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (638 mg, 4.5 mmol) was dissolved in anhydrous DMF (20 mL), then potassium carbonate (1.86 g, 13.5 mmol) and 2-(bromomethyl)imidazo[1,2-a]pyridine (1.42 g, 6.7 mmol) were added. The mixture was stirred overnight at room temperature. The solid was removed by filtration and washed with methanol, where the filtrate was evaporated. The residue was dissolved in DCM/MeOH and purified on silica gel using 12% DCM/MeOH to afford 2-({imidazo[1,2-a]pyridin-2-ylmethyl}sulfanyl)-6-methylpyrimidin-4-ol as a white solid (631 mg, 52% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 4.46 (s, 2H), 5.99 (bs, 1H), 6.84 (dt, J=1.7 Hz, J=6.7 Hz, 1H), 7.17-7.22 (m, 1H), 7.45 (dd, J=9.0 Hz, J=0.8 Hz, 1H), 7.86 (s, 1H), 8.46-8.49 (m, 1H); LRMS (ES+) m/z 273 (60%, M+1).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 4.5 mmol, 638 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 13.5 mmol, 1.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)imidazo[1,2-a]pyridine | 6.7 mmol, 1.42 g | BrCC=1N=C2N(C=CC=C2)C1 | C8H7BrN2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-({imidazo[1,2-a]pyridin-2-ylmethyl}sulfanyl)-6-methylpyrimidin-4-ol | 631 mg, 52% yield | N=1C(=CN2C1C=CC=C2)CSC2=NC(=CC(=N2)O)C | C13H12N4OS
